US04589905
To a solution of 2.5 g of 5-cyano-1-(2-pyridinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester in 20 ml of DMF was added an excess of 40% aqueous monomethylamine so as not to precipitate out the pyrazole starting material. Approximately 24 hours later additional monomethylamine was added to the reaction mixture as well as additional DMF so as to keep these reactants in solution. The reaction mixture was heated and subsequently added to 150 ml of ice water. The precipitated solid was collected by filtration and recrystallized from methanol to afford 1.2 g of 5-cyano-1-(2-pyridinyl)-N-methyl-1H-pyrazole-4-carboxamide. MP=200°-202° C.

reactant | 5-cyano-1-(2-pyridinyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 2.5 g | C(#N)C1=C(C=NN1C1=NC=CC=C1)C(=O)OCC | C12H10N4O2
reactant | monomethylamine | CN | CH5N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-(2-pyridinyl)-N-methyl-1H-pyrazole-4-carboxamide | 1.2 g | C(#N)C1=C(C=NN1C1=NC=CC=C1)C(=O)NC | C11H9N5O
